US07977354B2
Stage A: 4-(hydroxymethyl)phenyl dimethylcarbamate
To a solution of 5 g (40.3 mmol) of 4-(hydroxymethyl)phenol in 500 mL of acetone was added finely powdered K2CO3 (27.83 g, 0.2 mol) and 3.71 mL (40.3 mmol) of N,N-dimethylcarbamoyl chloride. This mixture was heated under reflux overnight and then filtered. After evaporation of the solvent, a purification by column chromatography on silica gel with cyclohexane/iPrOH (9/1) and as eluent gave 7.16 g (yield: 91%) of compound of molecular formula C10H13NO3. Aspect: white powder.

reactant | 4-(hydroxymethyl)phenol | 40.3 mmol, 5 g | OCC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | 0.2 mol, 27.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylcarbamoyl chloride | 40.3 mmol, 3.71 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 4-(hydroxymethyl)phenyl dimethylcarbamate | 7.16 g, yield: 91% | CN(C(OC1=CC=C(C=C1)CO)=O)C | C10H13NO3
